2183-04-21 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Hct decreased to 22, transfused 1U PRBC, DIC labs negative.
   -Hct remained at 22 despite transfusion, transfused 1U PRBC, repeat Hct
   26.
   -Narrow complex tachycardia from 140-160bpm concerning for afib vs MAT,
   patient hemodynamically stable. Diltiazam 5mg then 10mg pushed.
   Decreased to 120. Metoprolol 5mg IV pushed, return to NSR.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2183-4-20**] 04:14 PM
   Clindamycin - [**2183-4-20**] 04:15 PM
   Vancomycin - [**2183-4-20**] 11:53 PM
   Meropenem - [**2183-4-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-4-20**] 08:00 PM
   Other medications:
   Docusate 100mg PO BID
   Pantoprazole 40mg PO daily
   Vitamin K 10mg PO daily
   Meperidine 25mg PRN rigors
   Morphine Sulfate 2-4mg IV q4h PRN
   Acetaminophen 650mg PO q6h PRN
   Ondansetron 8mg IVE q8h PRN
   Simethicone 40-80mg PO QID PRN
   Prochlorperazine 10mg PO/IV q6h PRN
   Diltiazem 5mg IV x1.
   Diltiazem 10mg IV x1
   Metoprolol 5mg IV x1
   Calcium Gluconate 2g x1
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Notes dyspnea, unchanged from admission to the ICU.
   Notes awarenss of palpitations but no discomfort. Denies chest pain,
   worsening cough, dizziness, or confusion.
   Flowsheet Data as of  [**2183-4-21**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.2
   HR: 136 (85 - 136) bpm
   BP: 111/75(82) {90/61(69) - 115/78(86)} mmHg
   RR: 35 (20 - 35) insp/min
   SpO2: 78%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
           Total In:
                                                                  6,970 mL
                                                                    480 mL
   PO:
                                                                    370 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  2,350 mL
                                                                    100 mL
   Blood products:
                                                                    350 mL
                                                                    350 mL
   Total out:
                                                                  2,450 mL
                                                                    400 mL
   Urine:
                                                                    650 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,520 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 78%
   ABG: ///19/
   Physical Examination
   Appears stable. Continue to be tachypnic but comfortable and in no
   distress.
   HEENT: Moist membranes with sublingual pooling. Oropharynx clear.
   CV: Irreg irreg, preserved S1 and nl S2. No murmurs.
   Pulm: Decreased breath sound over the right upper lung field with
   egophany.
   Abd: Soft, nontender.
   Ext: Warm, 2+ pulses. Decreased 1+ LE edema.
   Neuro: AOx3.
   Labs / Radiology
   259 K/uL
   7.7 g/dL
   110 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.2 mEq/L
   27 mg/dL
   113 mEq/L
   141 mEq/L
   22.0 %
   1.5 K/uL
        [image002.jpg]
                             [**2183-4-20**]  07:58 PM
                             [**2183-4-20**]  09:01 PM
                             [**2183-4-21**]  02:48 AM
   WBC
   1.9
   1.5
   Hct
   14.9
   22.1
   22.0
   Plt
   182
   259
   Cr
   1.0
   Glucose
   110
   Other labs: PT / PTT / INR:18.6/32.7/1.7, ALT / AST:42/34, Alk Phos / T
   Bili:97/1.0, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:14.0 %,
   Mono:8.0 %, Eos:2.0 %, D-dimer:1356 ng/mL, Fibrinogen:662 mg/dL, Lactic
   Acid:2.1 mmol/L, LDH:275 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan: 58yo M with APML on ATRA, immunocompromised with
   WBC 1.5 with 7 days of fevers and chills despite broad coverage
   antimicrobial therapy. With likely brain abscesses, pneumonia, and
   thigh abscess.
   1. Fevers:
   Mr. [**Known lastname 6179**] has several days of spiking fevers and chills. He has been
   neutropenic and continues to have a low absolute neutrophil count and
   underlying APML concerning for an immunocompromised immune system. He
   has been on broad spectrum antibiotics as well as fungal and viral
   coverage. What infectious organisms may be present remains unclear. A
   single blood culture showed Strep viridans, which could be a
   contamanent. Otherwise BCx have been negative though this is not
   unexpected given his broad spectrum coverage. CSF and urine have been
   negative. TEE has been negative. Thigh abscess shows staph. Head CT is
   suggestive for mycotic aneurysms. Chest CT shows multiple foci of
   consolidation concerning for pneumonia. He may therefore have multiple
   simultaneous infections, or he may have a seed of infection with
   hematologic spread to brain and lung. An alternative possibility for
   his fevers includes retinoic acid syndrome give ATRA treatment, however
   it would be unusual timing and should only be considered if infectious
   etiology is ruled out.
   -Appreciate ID following
   -Appreciate surgery following for thigh abscess
   -Continue broad spectrum coverage with Vanc and meropenem.
   -Continue Voriconazole and Acyclovir for fungal/viral coverage.
   -Consider cefepime for improved coverage of nocardia.
   -Bronchoscopy for culture in am (also AFB, fungal cx, nocardia)
   -f/u betaglucan, galactomannan
   -f/u Legionella urinary antigen
   -f/u Histo antigen
   -f/u Cryptococcus antigen
   -f/u Toxo antigen
   -Respiratory viral panel
   2. Hypotension:
   He now has been tachycardic with SBPs in the 90s-100s. He has had good
   end organ perfusion with clear mental status and adequate urine output.
   While he is likely infected he does not appear to be septic. He is not
   significantly volume overloaded on exam.
   -Continue fluid boluses as needed to maintain UO
   -Trend Lactic acid to assess prefusion
   -No indication for pressors currently, but will follow closely.
   #. Anemia
 He is anemic at baseline due to his APML and chemotherapy.
   His hct has been decreasing and has had limited increase with
   transfusions. There is no clinical indication of bleeding, he is guiac
   negative, DIC labs are negative and he is not hemodynamically
   compromised due to his anemia. He may have low level hemolysis though
   we cannot assess given his recent transfusions.
   -Serial Hcts
   #. Acute kidney injury
 Creatinine has increased from a baseline of
   0.5 to 0.8 and now 1.0. There is a broad differential for his acute
   renal insufficiency though the most likely causes would be prerenal
   secondary to relative volume depletion or contrast induced nephropathy.
   -Urine lytes
   -IVF as above
   -Trend creatinine. If continue to increase start more extensive workup
   for glomerular etiology.
   #. SVT
 Developed an acute onset narrow complex SVT that was
   irregularly irregular. The EKG was difficult to interpret due to a poor
   baseline but appears consistent with Afib, though MAT or sinus rhythm
   with frequent ectopy is possible. This is likely secondary to his
   pneumonia. He returned to NSR with 5mg IV metoprolol.
   -Follow
   -Consider standing metoprolol if afib with tachycardia is persistent.
   #. Dyspnea:
   The patient has 1 week of worsening dyspnea and an increase A-a
   gradient consistent with V/Q mismatch. This is due to the
   consolidations seen on Chest CT, likely pneumonia.
   -Continue supplemental O2
   -Antibiotic therapy as above.
   #. APML: s/p induction chemotherapy and now on ATRA per oncology.
   -Appreciate oncology recommendations
   -Trend CBC
   -Continue ATRA
   #. Coagulopathy: Unclear etiology. Present since admission and DIC labs
   have been negative. Most likely nutritional deficiency.
   -Vitamin K 10mg x 3 doses
   ICU Care
   Nutrition: NPO for bronchoscopy
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-4-20**] 07:10 PM
   2 PIVs
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: on ppx
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2183-04-22 07:14:00 Physician Attending Progress Note
Chief Complaint: 58yo with APML on ATRA with pulmonary infiltrates,
   intraparenchymal CNS lesions, thigh abscess. In the ICU for fevers and
   hypotension.
   24 Hour Events:
 BRONCHOSCOPY - At [**2183-4-21**] 02:15 PM
   see procedure record
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2183-4-20**] 04:14 PM
   Clindamycin - [**2183-4-20**] 04:15 PM
   Vancomycin - [**2183-4-22**] 08:22 AM
   Meropenem - [**2183-4-22**] 12:02 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2183-4-21**] 02:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Dyspnea, worst with exertion. Overall feelings
   improvement. Has not been out of bed. Chills and night sweats overnight
   for 2 hours. No fevers. Low appetite but eating and taking good PO
   fluids. No GI sx.
   Flowsheet Data as of  [**2183-4-22**] 12:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37
C (98.6
   HR: 89 (76 - 103) bpm
   BP: 100/70(77) {95/47(56) - 136/88(98)} mmHg
   RR: 26 (19 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,280 mL
                                                                    445 mL
   PO:
                                                                     30 mL
             TF:
   IVF:
                                                                    900 mL
                                                                    445 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,300 mL
                                                                    800 mL
   Urine:
                                                                  1,300 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -20 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.47/28/120/20/-1
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: Conjunctiva pale
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   CV: RRR, nl S1 and S2. JVP not elevated.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, thigh abscess improving
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, time, Normal movement,
   strength, and tone.
   Labs / Radiology
   309 K/uL
   9.1 g/dL
   109 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.5 mEq/L
   24 mg/dL
   112 mEq/L
   143 mEq/L
   25.9 %
   1.3 K/uL
        [image002.jpg]
                             [**2183-4-20**]  07:58 PM
                             [**2183-4-20**]  09:01 PM
                             [**2183-4-21**]  02:48 AM
                             [**2183-4-21**]  08:00 AM
                             [**2183-4-21**]  05:53 PM
                             [**2183-4-21**]  08:44 PM
                             [**2183-4-22**]  08:05 AM
   WBC
   1.9
   1.5
   1.3
   Hct
   14.9
   22.1
   22.0
   26.3
   26.8
   25.9
   Plt
   182
   259
   309
   Cr
   1.0
   0.9
   TCO2
   21
   Glucose
   110
   109
   Other labs: PT / PTT / INR:18.6/32.7/1.7, ALT / AST:42/34, Alk Phos / T
   Bili:97/1.0, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:14.0 %,
   Mono:8.0 %, Eos:2.0 %, D-dimer:1356 ng/mL, Fibrinogen:662 mg/dL, Lactic
   Acid:1.8 mmol/L, LDH:275 IU/L, Ca++:7.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan: 58yo with APML on ATRA with pulmonary infiltrates,
   intraparenchymal CNS lesions, thigh abscess. In the ICU for fevers and
   hypotension.
   1. Pulmonary infiltrates:
   Mr. [**Known lastname 6179**] remains tachypnic with an oxygen requirement, but is stable
   and feels his breathing is improving. He has had only 1 low grade fever
   over the past 48 hours. A bronchoscopy did not identify organisms with
   a negative gram stain and cultures pending. The differential still
   includes infectious pneumonia versus retinoic acid syndorme. Pneumonia
   seems more likely given his immunocompromised state and presentation.
   RA syndrome is less likely given his clinical presentation and lack of
   other findings of this syndrome.
   -Appreciate ID following
   -Appreciate oncology following
   -Continue broad spectrum coverage with Vanc and meropenem.
   -Continue Voriconazole and Acyclovir for fungal/viral coverage.
   -f/u bronchoscopy results
   -f/u betaglucan
   -f/u Histo antigen
   -f/u Toxo antigen
   -Review chest imaging with radiology
   -Consider diuresis after hemodynamic stabilization and improved renal
   function
   -Discuss steroids and considering stopping ATRA with oncology team
   #.CNS lesions:
   Likely abscess. Stable on past imaging. No change in neurologic exam or
   mental status. Will need repeat head CT in the next several days.
   #. Thigh abscess:
   Coag + staph, improving with vanc and meropenem.
   -Continue ab converage as above.
   #. Fevers:
   The source of his fevers could include any of the above problems,
   including infections or ATRA syndrome. BCx from the past 6 days have
   remained negative. His last high grade fever was greater than 48 hours
   ago. He had a low grade temperature to 101 today. Continue coverage as
   above.
   #. Hypotension:
   He was admitted to the ICU for hypotension with SBP in the 90s and
   concern for sepsis. He was asymptomatic. He has responded well to fluid
   replacement and has not required pressors. He has maintained his
   pressures since admission. His lactate has retunred to normal and he
   does not have septic physiology.
   -Encourage good PO intake and follow closely.
   -IVF bolus as necessary for any hypotension.
   5. Anemia
 He is anemic at baseline due to his APML and chemotherapy.
   His hct has been decreasing and has had limited increase with
   transfusions. There is no clinical indication of bleeding, he is guiac
   negative, DIC labs are negative and he is not hemodynamically
   compromised due to his anemia. He may have low level hemolysis though
   we cannot assess given his recent transfusions. He may have had some
   pulmonary hemorrhage giving the rapid resolution of the consolidation
   seen on CT, though the lavage did not show any blood.
   -Serial Hcts
   #. Acute kidney injury
 Creatinine has increased from a baseline of
   0.5 to 1.0 and decreased to 0.9 today. There is a broad differential
   for his acute renal insufficiency though the most likely causes would
   be prerenal secondary to relative volume depletion or contrast induced
   nephropathy. His FENA is <1 also consistent with these two
   possiblities.
   -Trend creatinine. If continues to increase start more extensive workup
   for glomerular etiology.
   #. Proteinuria
 Spot Prot/Cr = 1.2. The most likely causes is a
   functional proteinuria given his multiple likely infections, though
   this could also be related to his [**Last Name (un) **] if he has a new glomerular
   pathology. A urine sediment will be useful for an initial workup.
   -UA, sediment, and culture.
   #. SVT
 Developed an acute onset narrow complex SVT that was
   irregularly irregular. The EKG was difficult to interpret due to a poor
   baseline but appears consistent with Afib, though MAT or sinus rhythm
   with frequent ectopy is possible. This is likely secondary to his
   pneumonia. He returned to NSR with metoprolol.
   -Continue metoprolol.
   #. APML: s/p induction chemotherapy and now on ATRA per oncology.
   -Appreciate oncology recommendations
   -Trend CBC with diff
   -Continue ATRA, though consider trial of steroids or holding ATRA in
   the future if pulm status does not improve
   #. Coagulopathy: Unclear etiology. Present since admission and DIC labs
   have been negative. Most likely nutritional deficiency.
   -Continue vitamin K
   ICU Care
   Nutrition:
   Comments: Full diet
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-22**] 12:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Consider transfer to the floor later today
   Critical Care
   Breathing slightly improved overnight and he slept.  Oxygenation
   stable, but CXR somewhat worse and now suggests primarily volume
   overload.  Febrile this am. WBC sl down over last 2 days but plts up.
   Still seems likely he has some infectious pneumonia but neg BAL and
   appearance of CXR this am do raise possibility of fluid as cause of
   infiltrates although the appearance would certainly be atypical.
   We will try to maintain I&O even to sl negative if possible.
   Time spent 45 min
   Critically ill

2183-04-23 07:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 58yo with APML on ATRA with pulmonary infiltrates,
   intraparenchymal CNS lesions, thigh abscess. In the ICU for fevers and
   hypotension.
   24 Hour Events:
 PICC LINE - START [**2183-4-22**] 12:09 PM
 Afib with RVR to 130s, stable hemodynamics
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2183-4-20**] 04:14 PM
   Clindamycin - [**2183-4-20**] 04:15 PM
   Meropenem - [**2183-4-23**] 12:11 AM
   Vancomycin - [**2183-4-23**] 12:30 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2183-4-22**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Feels improved. Slept well. Breathing more
   comfortably. Able to move from bed to chair without dyspnea. Improved
   PO intake. Denies chest pain, dizziness, confusion, night sweats, or
   chills.
   Flowsheet Data as of  [**2183-4-23**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.6
C (97.9
   HR: 83 (74 - 126) bpm
   BP: 103/65(75) {97/41(50) - 130/83(93)} mmHg
   RR: 20 (16 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    756 mL
                                                                    379 mL
   PO:
             TF:
   IVF:
                                                                    756 mL
                                                                    379 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    500 mL
   Urine:
                                                                  1,650 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -894 mL
                                                                   -122 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Appears well, more comfortable than yesterday.
   AOx3, good historian, CNII-XII intact
   Moist mucous membranes, oropharynx clear
   RRR, nl S1 and S2.
   Increased bronchial breath sounds over right upper lung field. Good
   airmovement throughout, no crackles.
   Abd soft, nontender.
   Ext warm and well perfused. 2+ pulses. 1+ LE edema unchanged.
   R thigh lesion decreased in size.
   Labs / Radiology
   202 K/uL
   8.9 g/dL
   105 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.5 mEq/L
   23 mg/dL
   111 mEq/L
   140 mEq/L
   26.4 %
   0.6 K/uL
        [image002.jpg]
                             [**2183-4-20**]  07:58 PM
                             [**2183-4-20**]  09:01 PM
                             [**2183-4-21**]  02:48 AM
                             [**2183-4-21**]  08:00 AM
                             [**2183-4-21**]  05:53 PM
                             [**2183-4-21**]  08:44 PM
                             [**2183-4-22**]  08:05 AM
                             [**2183-4-23**]  05:28 AM
   WBC
   1.9
   1.5
   1.3
   Hct
   14.9
   22.1
   22.0
   26.3
   26.8
   25.9
   26.4
   Plt
   182
   259
   309
   202
   Cr
   1.0
   0.9
   0.9
   TCO2
   21
   Glucose
   110
   109
   105
   Other labs: PT / PTT / INR:16.2/25.9/1.4, ALT / AST:42/34, Alk Phos / T
   Bili:97/1.0, Differential-Neuts:74.0 %, Band:0.0 %, Lymph:14.0 %,
   Mono:8.0 %, Eos:2.0 %, D-dimer:1356 ng/mL, Fibrinogen:662 mg/dL, Lactic
   Acid:1.8 mmol/L, LDH:275 IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan: 58yo with APML on ATRA with pulmonary infiltrates,
   intraparenchymal CNS lesions, thigh abscess. In the ICU for fevers and
   hypotension.
   1. Pulmonary infiltrates:
   Mr. [**Known lastname 6179**] remains tachypnic with an oxygen requirement, but is stable
   and feels his breathing is improving. His respiratory rate has
   decreased significantly. His last elevated temperature was 24 hours ago
   to 101, and he has had no high grade fevers for over 72 hours.
   Bronchoscopy has shown no organisms to date, though fungal and nocardia
   cultures remain pending. His CXR today shows worsening pulmonary edema.
   The differential still includes infectious pneumonia, retinoic acid
   syndrome, and pulmonary edema both cardiogenic and non cardiogenic.
   Pneumonia seems likely given his immunocompromised state and
   presentation. There is likely an element of pulmonary edema as well
   given his diffuse interstitial pattern on CXR. His worsening pulmonary
   edema may be due to volume overload and a trial of diuresis is
   warranted. Retinoic acid syndrome is less likely given his clinical
   presentation and lack of other findings of this syndrome. Finally his
   Toxo IgG is positive and IgM negative. He could have disseminated Toxo
   to his CNS and lungs. This may simply represent old infection, however
   given his immunocompromised state, he may be infected and unable to
   mount an IgM response.
   -Appreciate ID following
   -Appreciate oncology following
   -Diuresis with goal negative 1.5-2L
   -Continue antibiotic coverage as discussed below (see leucopenia)
   -Continue Voriconazole and Acyclovir for fungal/viral coverage.
   -Consider coverage for Toxo with pyrimethamine and sulfadiazine.
   -f/u bronchoscopy cultures
   -f/u Histo antigen
   #. Leukopenia: Oncology feels this is too late to be secondary to
   chemotherapy, and there is no evidence of tumor recurrence leading to
   leukopenia. He likely has marrow suppression. This could be due to a
   drug side effect, most likely from an antimicrobial. Vancomycin is
   known to cause marrow suppression after several days of use. Meropenem
   can also cause marrow suppression those typically presents with anemia.
   -Discuss with ID and Onc change of antibiotics. Would favor changing
   meropenem to cefepime and consideration of discontinuing vancomycin
   given no known MRSA.
   #.CNS lesions:
   Likely abscess. Stable on past imaging. No change in neurologic exam or
   mental status. Will need repeat CT, however plan to wait given need for
   diuresis and elevated creatinine at present.
   #. Thigh abscess:
   MSSA, improving with vanc and meropenem.
   -Antibiotic coverage as above
   #. Fevers:
   The source of his fevers could include any of the above problems,
   including infections or ATRA syndrome. BCx from the past 6 days have
   remained negative. His last high grade fever was greater than 72 hours
   ago. Continue antibiotic coverage as above.
   #. Hypotension:
   He was admitted to the ICU for hypotension with SBP in the 90s and
   concern for sepsis. He was asymptomatic. He has responded well to fluid
   replacement and has not required pressors. He has maintained his
   pressures since admission. His lactate has returned to [**Location 810**] and he
   does not have septic physiology.
   -Careful diuresis as above
   5. Anemia
 He is anemic at baseline due to his APML and chemotherapy.
   His hct is now stable. There is no clinical indication of bleeding, he
   is guiac negative, DIC labs are negative and he is not hemodynamically
   compromised due to his anemia. Continue to follow Hct.
   #. Acute kidney injury
 Creatinine has increased from a baseline of
   0.5 to 1.0 and decreased to 0.9 today. There is a broad differential
   for his acute renal insufficiency though the most likely causes would
   be prerenal secondary to relative volume depletion or contrast induced
   nephropathy. His FENA is <1 also consistent with these two
   possiblities.
   -Trend creatinine. If continues to increase start more extensive workup
   for glomerular etiology.
   #. Proteinuria
 Spot Prot/Cr = 1.2. The most likely causes is a
   functional proteinuria given his multiple likely infections, though
   this could also be related to his [**Last Name (un) **] if he has a new glomerular
   pathology. A urine sediment will be useful for an initial workup.
   -UA, sediment, and culture.
   #. SVT
 Developed an acute onset narrow complex SVT that was
   irregularly irregular. The EKG was difficult to interpret due to a poor
   baseline but appears consistent with Afib, though MAT or sinus rhythm
   with frequent ectopy is possible. This is likely secondary to his
   pneumonia. He returned to NSR with metoprolol.
   -Continue metoprolol.
   #. APML: s/p induction chemotherapy and now on ATRA per oncology.
   -Appreciate oncology recommendations
   -Trend CBC with diff
   -Continue ATRA
   #. Coagulopathy: Unclear etiology. Present since admission and DIC labs
   have been negative. Most likely nutritional deficiency.
   -Continue vitamin K
   ICU Care
   Nutrition: Full diet
   Glycemic Control:
   Lines:
   PICC Line - [**2183-4-22**] 12:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Transfer to medical floor
   ------ Protected Section ------
   Critical Care
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan as outlined.
   Feels more comfortable. Breathing
easier
 > Fever persists
   Chest diminished excursion, few mid insp crackles
   CXR
 apparent vol overload
   WBC
 down to 0.6
   His CXR is worse although he feels better. Much of this now looks like
   fluid and he continues to have pos I&O. Will try to diurese gently.
   Will discuss abx with ID as [**Last Name (un) **] most likely cause of falling WBC
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2183-4-23**] 18:16 ------